US06028195
1-[(5,6-Dimethyl-2-methylaminopyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
Phenyl N-(5,6-dimethyl-2-methylaminopyridin-3-yl)carbamate and 1-(3,5-dimethoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(5,6-dimethyl-2-methylaminopyridin-3-yl)carbamate | CC=1C=C(C(=NC1C)NC)NC(OC1=CC=CC=C1)=O | C15H17N3O2
reactant | 1-(3,5-dimethoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(5,6-Dimethyl-2-methylaminopyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 53% | CC=1C=C(C(=NC1C)NC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C21H29N5O3
